US07960436B2
b. (4-Nitro-1-oxo-indan-5-yl)-carbamic acid ethyl ester
(1-Oxo-indan-5-yl)-carbamic acid ethyl ester (0.94 g, 4.3 mmol) was dissolved in 20 ml of concentrated sulphuric acid and cooled to 0° C. using an ice-bath. Potassium nitrate (477 mg, 4.7 mmol) was added in small portions. After complete addition, the mixture was stirred for 3 hours at 0° C. and then poured onto crushed ice. The yellow precipitate was filtered off, washed thoroughly with water and dried in vacuo to give a yellow solid product (0.85, 75%).

reactant | (1-Oxo-indan-5-yl)-carbamic acid ethyl ester | 4.3 mmol, 0.94 g | C(C)OC(NC=1C=C2CCC(C2=CC1)=O)=O | C12H13NO3
reactant | Potassium nitrate | 4.7 mmol, 477 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | (4-Nitro-1-oxo-indan-5-yl)-carbamic acid ethyl ester | C(C)OC(NC=1C(=C2CCC(C2=CC1)=O)[N+](=O)[O-])=O | C12H12N2O5
